US06555577B1
(E)-Ethyl 3-(4-furan-2-yl-phenyl)-but-2-enoate was reduced with DIBAL-H by a procedure analogous to that described in example 50b, to give the colourless solid (E)-3-(4-furan-2-yl-phenyl)-but-2-en-1-ol.

reactant | (E)-Ethyl 3-(4-furan-2-yl-phenyl)-but-2-enoate | O1C(=CC=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C16H16O3
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-(4-furan-2-yl-phenyl)-but-2-en-1-ol | O1C(=CC=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C14H14O2
